US08614211B2
To a solution of (S)-4-(((3R,4R)-4-(3,4-dimethoxybenzyl)-2-oxotetrahydrofuran-3-yl)methyl)-2-methoxyphenyl 3-((tert-butoxycarbonyl)amino)pyrrolidine-1-carboxylate (96 mg, 0.16 mmol, 1.0 eq) was added a solution of HCl in dioxane. The resulting mixture was stirred at rt for 3 h, and then concentrated and washed with THF to afford (S)-4-(((3R,4R)-4-(3,4-dimethoxybenzyl)-2-oxotetrahydrofuran-3-yl)methyl)-2-methoxyphenyl 3-aminopyrrolidine-1-carboxylate (27 mg, 36.4%). LRMS (M+H+) m/z calculated 485.2, found 484.9. 1H NMR (DMSO-d6, 400 MHz) δ 8.54 (brs, 3H), 6.98-7.01 (m, 1H), 6.93 (s, 1H), 6.83 (d, 1H), 6.77 (d, 1H), 6.66 (s, 1H), 6.60 (d, 1H), 4.10-4.14 (m, 1H), 3.81-3.93 (m, 3H), 3.73 (s, 3H), 3.70 (s, 6H), 3.54-3.64 (m, 2H), 3.39-3.52 (m, 3H), 2.76-2.92 (m, 3H), 2.47-2.50 (m, 1H), 2.01-2.28 (m, 2H).

reactant | (S)-4-(((3R,4R)-4-(3,4-dimethoxybenzyl)-2-oxotetrahydrofuran-3-yl)methyl)-2-methoxyphenyl 3-((tert-butoxycarbonyl)amino)pyrrolidine-1-carboxylate | 0.16 mmol, 96 mg, 1.0 eq | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C(=O)OC1=C(C=C(C=C1)C[C@H]1C(OC[C@@H]1CC1=CC(=C(C=C1)OC)OC)=O)OC | C31H40N2O9
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-4-(((3R,4R)-4-(3,4-dimethoxybenzyl)-2-oxotetrahydrofuran-3-yl)methyl)-2-methoxyphenyl 3-aminopyrrolidine-1-carboxylate | 27 mg, 36.4% | N[C@@H]1CN(CC1)C(=O)OC1=C(C=C(C=C1)C[C@H]1C(OC[C@@H]1CC1=CC(=C(C=C1)OC)OC)=O)OC | C26H32N2O7
